** Generated for: hspiceD
** Generated on: Apr 12 09:34:33 2019
** Design library name: CascodeSymmetricalCMOSOTA
** Design cell name: cascodeSymmetricalCMOSOTA
** Design view name: schematic
.GLOBAL vdd! gnd!

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Library name: CascodeSymmetricalCMOSOTA
** Cell name: cascodeSymmetricalCMOSOTA
** View name: schematic
m17 net30 ibias gnd! gnd! nmos W=2e-6 L=1e-6
m8 ibias ibias gnd! gnd! nmos W=2e-6 L=1e-6
m7 net20 net20 gnd! gnd! nmos W=9e-6 L=1e-6
m6 net26 net20 net48 net48 nmos W=19e-6 L=1e-6
m5 net48 net26 gnd! gnd! nmos W=19e-6 L=1e-6
m4 net40 inp net36 net36 nmos W=60e-6 L=1e-6
m3 net29 inn net36 net36 nmos W=60e-6 L=1e-6
m2 net42 net26 gnd! gnd! nmos W=19e-6 L=1e-6
m1 out net20 net42 net42 nmos W=19e-6 L=1e-6
m0 net36 ibias gnd! gnd! nmos W=2e-6 L=1e-6
m16 net30 net30 vdd! vdd! pmos W=4e-6 L=1e-6
m15 net20 net30 vdd! vdd! pmos W=4e-6 L=1e-6
m14 net26 net30 net27 net27 pmos W=6e-6 L=1e-6
m13 net40 net40 vdd! vdd! pmos W=14e-6 L=1e-6
m12 net27 net29 vdd! vdd! pmos W=14e-6 L=1e-6
m11 net29 net29 vdd! vdd! pmos W=14e-6 L=1e-6
m10 net44 net40 vdd! vdd! pmos W=14e-6 L=1e-6
m9 out net30 net44 net44 pmos W=78e-6 L=1e-6
cl out gnd!
.END
